Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[O:5])[C:6](=[O:7])[H:15])([H:8])([H:9])[H:10].[C:3](=[C:4]([H:13])[H:14])([H:11])[H:12]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],53.66732851364881
[C:1]([N:5]([C:6](=[O:7])[H:18])[H:17])([H:8])([H:9])[H:10].[C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],89.7564654263065
[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@@:2]([C:5]#[C:6][H:12])([H:10])[C:3][C:4]1([H:7])[H:11],90.7159048985895
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O+:1]#[C:2][C@@:3]([C:4]([C-:5]([H:11])[H:12])([H:9])[H:10])([O:6][H:7])[H:8],61.183424952428595
[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2][H:8])([C:5]1=[C:6]([H:11])[O:3][C:4]1([H:9])[H:10])[H:7],107.847004843654
[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([H:9])[H:10])([H:6])[H:8].[C:3]([O:4][H:7])[N:5]([H:11])[H:12],70.099887004725
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2]([C:6](=[C-:7][H:14])[H:10])([H:11])[C:3]([H:12])([H:13])[C:4]#[N+:5]1,100.969046772195
[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([O:4][H:7])([C:5](=[O:6])[H:10])[H:9])[H:8],35.2378682595608
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[N:3](=[C:4]([H:9])[H:10])[H:8].[O:1]=[C:2]([N+:6]#[C-:5])[H:7],74.33579331242521
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:5]#[N:6])([H:9])[H:10])([O:4][H:11])[H:8])[H:7],86.7072261775845
[C-:2](=[O+:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:12].[C:1]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],15.662826847530305
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:6]#[C:7][H:15])[C:3]([H:11])([H:13])[C@:4]1([C:5][H:14])[H:12])([H:8])([H:9])[H:10],84.2495400221855
[O:1]([C:2]1=[C:5]=[N:6][C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],22.901917598911197
[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1](=[C:2])([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],63.2825668521433
[C:1]([C@@:2]1([H:10])[C:3][C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9].[C:4]([H:11])([H:12])([H:13])[H:14]>>[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9],7.2814863004384875
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:6](=[C:5])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[C:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],13.394101069041199
[C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[N:1]([C+:2]=[C:6]=[N-:7])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],19.42673121100129
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:5]#[N:6])([H:7])([H:8])[H:9].[N:2](=[C:3]=[N:4][H:11])[H:10],94.6441650685864
[C:1]([N:5]([C:6]([H:12])([H:13])[H:14])[H:11])([H:7])([H:8])[H:9].[N:2](=[C:3]=[O:4])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],60.744579049391305
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[C:3]1([H:8])([H:9])[C:4]([N+:7]#[C-:6])=[C:5]1[H:10].[O+:1]#[C-:2],64.50340597750589
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[O:2][C@:3]1([O:4][H:8])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12],88.0900314352463
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C+:3](=[C:4]([O-:5])[N:6]([H:14])[H:15])[H:12].[C:1]([C:2]([H:10])([H:11])[H:13])([H:7])([H:8])[H:9],90.5953159661973
[O:1]=[C:2]1[C:3]([H:8])=[C:4]([H:9])[C:6]([N:5]([H:10])[H:11])=[N:7]1>>[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1,85.95741519140748
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C+:2]([C@:3]([C-:4]([H:12])[H:13])([C:7]([C:5](=[O:6])[H:10])([H:14])[H:15])[H:11])[H:9])[H:8],66.6043775072458
[C:1]([C:2](/[C:5](=[C:3](\[O:4][H:13])[H:12])[C:6][H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],29.244317618464493
